US06211242B1
A solution of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-ethoxycarbonylphenyl)benzamide (500 mg) in a mixture of ethanol (20 ml) and 1N sodium hydroxide (2 ml) was heated at reflux for 4 hours and ethanol was evaporated in vacuo. Water (5 ml) was added to the residue and the aqueous solution was adjusted to pH 2 with 1N hydrochloric acid. The precipitate was filtered to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-carboxyphenyl)benzamide (435 mg) as a white powder.

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-ethoxycarbonylphenyl)benzamide | 500 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)C(=O)OCC)C)C=C1 | C31H28N2O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-carboxyphenyl)benzamide | 435 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)C(=O)O)C)C=C1 | C29H24N2O4
